US07651687B2
3-(8-Amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol
A solution of 2M ammonia in isopropanol (80 mL) and THF (5 mL) was added to 3-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol (2.77 g, 7.62 mmol) in a Parr pressure reactor. The mixture was cooled to at −78° C. then ammonia gas was bubbled into the solution for 4-6 min. The reactor was sealed then heated at 110° C. for 15 h. The solvent was then removed in vacuo and the residue purified by chromatography over silica gel eluting with 7% MeOH in DCM to afford desired product. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44 (s, 3 H), 2.32-2.51 (m, 4 H), 3.33-3.52 (m, 1 H), 6.61 (br.s., 2 H), 7.03 (d, J=5.05 Hz, 1 H) and 7.62 (d, J=5.05 Hz, 1 H).

reactant | ammonia | 2M | N | H3N
reactant | 3-(8-chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol | 7.62 mmol, 2.77 g | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)(O)C | C11H11ClIN3O
solvent | isopropanol | 80 mL | C(C)(C)O | C3H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(8-Amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)-1-methylcyclobutanol | NC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)(O)C | C11H13IN4O
